US06800651B2
N-(3-(4-Cyanophenyl)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine
A solution of N-(3-(4-cyanophenyl)phenyl)pyrid-3-ylmethylamine (255 mg, 0.894 mmol) in 8 ml dichloromethane/2 ml pyridine was treated with 2,2,2-trifluoroethylsulfonyl chloride in 3 portions of 171 mg (0.94 mmol) over 1 h at 45° C. The solution was cooled and diluted with 60 ml diethyl ether and washed successively with water and saturated sodium bicarbonate solution. The organics were separated, dried over sodium sulfate, filtered, and concentrated to an oil. The oil was purified by radial chromatography on a 2 micron silica plate eluting with 2 to 4% methanol/dichloromethane to afford the title compound. 1H NMR: 8.65 (bs,1H), 8.42 (bs,1H), 7.85 (m,1H), 7.75 (d,2H,J=8 Hz), 7.58 (d,2H,J=8 Hz), 7.30-7.55 (m,5H), 5.02 (s,2H), 3.78 (q,2H,J=8 Hz). MS calcd. 431.44; MS (M+1) 432.1.

reactant | N-(3-(4-cyanophenyl)phenyl)pyrid-3-ylmethylamine | 0.894 mmol, 255 mg | C(#N)C1=CC=C(C=C1)C=1C=C(C=CC1)NCC=1C=NC=CC1 | C19H15N3
reactant | 2,2,2-trifluoroethylsulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | N-(3-(4-Cyanophenyl)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine | C(#N)C1=CC=C(C=C1)C=1C=C(C=CC1)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1 | C21H16F3N3O2S
